US05443698
Silver Neodecanoate
To a reaction flask equipped with a mechanical stirrer, thermometer was charged 12.0 g (0.070 mole) of neodecanoic acid, 60 g of 0.1N sodium hydroxide. Silver foil was used as the anode and a graphite rod as the cathode. After passing 5,590 coulombs of direct current, 3.47 g (0.032 mole) of silver was consumed. A black sticky material was obtained after removal of the aqueous phase. This material was tertiurated with acetone and gave a black crystalline solid containing 25.0% silver. From the acetone was obtained a white solid containing 28.0% silver.

reactant | neodecanoic acid | 0.070 mole, 12.0 g | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | sodium hydroxide | 0.1N, 60 g | [OH-].[Na+]
reactant | Silver | [Ag] | Ag
reactant | silver | 0.032 mole, 3.47 g | [Ag] | Ag
solvent | acetone | CC(=O)C | C3H6O
product | Silver Neodecanoate | C(CCCCCC(C)(C)C)(=O)[O-].[Ag+] | InChI=1S/C10H20O2.Ag/c1-10(2,3)8-6-4-5-7-9(11)12;/h4-8H2,1-3H3,(H,11,12);/q;+1/p-1
